US09029549B2
2-Bromobenzyl 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (I-820)
A solution of 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylic acid (III-4, 100 mg) is reacted analogously to Example I-811 with (2-bromophenyl)methanol (49.0 mg). This gives, after chromatographic purification, 2-bromobenzyl 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (123 mg, 89%).

reactant | 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylic acid | 100 mg | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)O)C(F)(F)F | C16H17F3N4O3S
reactant | (2-bromophenyl)methanol | 49.0 mg | BrC1=C(C=CC=C1)CO | C7H7BrO
product | 2-Bromobenzyl 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)OCC1=C(C=CC=C1)Br)C(F)(F)F | C23H22BrF3N4O3S
